US05089495
A mixture of 2-[1-(3-hydroxyphenyl)-1-methoxypropyl]thiazole (31 g), 2-propynyl bromide (80% solution in toluene, 48.1 ml), potassium carbonate (48 g) and acetone (375 ml) was stirred and heated to reflux for 17 hours. The mixture was filtered and the filtrate was evaporated. The residue was partitioned between diethyl ether and water and the organic layer was washed with water, dried (MgSO4) and evaporated. The residue was purified by chromatography eluting with hexane/ethyl acetate (1:1 v/v) to give 2-[1-(3-(2-propynyloxy)phenyl)-1-methoxypropyl]thiazole as an oil (34 g, 94%).

reactant | 2-[1-(3-hydroxyphenyl)-1-methoxypropyl]thiazole | 31 g | OC=1C=C(C=CC1)C(CC)(OC)C=1SC=CN1 | C13H15NO2S
reactant | 2-propynyl bromide | 48.1 ml | C(C#C)Br | C3H3Br
reactant | potassium carbonate | 48 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 375 ml | CC(=O)C | C3H6O
product | 2-[1-(3-(2-propynyloxy)phenyl)-1-methoxypropyl]thiazole | 34 g, 94% | C(C#C)OC=1C=C(C=CC1)C(CC)(OC)C=1SC=CN1 | C16H17NO2S
